Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors / Metoprolol
 
Attending: ___.
 
Chief Complaint:
Difficulty breathing and cough
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This pleasant ___ year old woman, who speaks fluent ___, 
___, and ___ (but not ___, who is a resident at the 
___ in ___, is transferred from 
that facility for shortness of breath, cough, and fever. She 
completed a course of Azithromycin at the nursing home today (? 
three or five day course), and is no better. CXR at that 
facility from ___ was read as showing diffuse interstitial 
opacities unchanged from ___, mild cardiomegaly, and 
blunted costophrenic angles bilaterally. 

In our ED she was described as being in mild respiratory 
distress. She was hypoxemic, with sats as low as 79% on RA, 
responding to 92-94% on 6L/min via NC. She tells me that she has 
been on oxygen for approximately 6 months at the nursing home, 
with a period of a few weeks recently during which she did not 
require any oxygen (up to 3 days ago, per pt). In th eED she 
received IV Vanco, IV Levofloxacin, IV Lasix. 

Patient tells me that she has been having significant difficulty 
breathing for the past 3 days. She reports non-productive cough 
durint that time. She denies chest pain. In fact, all other 
systems are negative. She tells me she is a life-long 
non-smoker. We do not have any records of her here and she 
states she has not been hospitalized elsewhere, but gets her 
medical care at the nursing home. She is alert and oriented, 
pleasant, cooperative, and appears be mentating normally.
 
Past Medical History:
Per ___ notes:
HTN
COPD
Type II DM
Mild dementia
Urinary incontinence
Depression
Anemia
B12 deficiency
DJD
Osteoporosis
History of pelvic fracture
Cataract left eye
Renal failure - in ___ had renal ultrasound for this (? 
results). Serum creat at ___ has been in the 1.8-1.9 
range from ___ through ___

Allergies: 
ACE-I = cough
Beta blockers = SOB
 
Social History:
___
Family History:
Not relevant given the patient's age
 
Physical Exam:
T-99.8 BP-156/65 HR-89 RR-24 SaO2-94% on 5l/min
Not in distress, but mildly tachypneic
Pleasant, awake, alert, cooperative. Mildly obese.
HEENT-negative
Neck - obese, JVP not appreciable
Lungs-decreased breath sounds at both bses, few crackles left 
mid lung fields, no wheezes
CV-regular rhythm, heart sounds distant, no m/r/g
Abd-soft, NT, ND, NABS. No HSM
Extr-2+ b/l ___ pitting edema. Distal extremities warm and 
adequately perfused.
Neuro - non-focal exam
 
Pertinent Results:
___ 01:15PM   WBC-16.5* RBC-3.34* HGB-10.5* HCT-31.0* 
MCV-93 MCH-31.4 MCHC-33.8 RDW-13.1
___ 01:15PM   NEUTS-64.3 ___ MONOS-4.8 EOS-1.8 
BASOS-0.4
___ 01:15PM   PLT COUNT-485*
___ 01:15PM   ___ PTT-22.4 ___
___ 01:29PM   LACTATE-1.8
___ 01:15PM   GLUCOSE-109* UREA N-29* CREAT-1.4* SODIUM-140 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-28 ANION GAP-14
___ 01:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-MOD
___ 01:30PM URINE  RBC-0 ___ BACTERIA-NONE 
YEAST-NONE ___ 01:05PM   cTropnT-0.02*
___ 07:00AM BLOOD CK-MB-2 cTropnT-0.02* proBNP-891*
___ 08:20AM BLOOD WBC-19.9*# RBC-3.17* Hgb-9.7* Hct-29.8* 
MCV-94 MCH-30.5 MCHC-32.4 RDW-12.4 Plt ___
___ 08:20AM BLOOD Glucose-138* UreaN-69* Creat-2.9* Na-140 
K-4.3 Cl-98 HCO3-29 AnGap-17
___ 11:39AM BLOOD Lactate-4.1*
___ 09:32AM BLOOD Lactate-1.9
___ 07:00AM BLOOD TSH-4.4*
___ 11:39AM BLOOD Type-ART pO2-72* pCO2-42 pH-7.40 
calTCO2-27 Base XS-0

Blood cx (___): NGTD x2
Blood cx (___): NGTD x2

CXR (___): Single portable AP upright view of the chest was 
obtained. There is blunting of bilateral costophrenic angles, 
raising concern for small bilateral pleural effusions. 
Indistinct central vasculature suggests central pulmonary 
vascular congestion/edema. More confluent area of opacity 
projecting over he left mid lung is seen, which could relate to 
fluid overload, although an infectious process/pneumonia cannot 
be excluded. The aorta is calcified and tortuous. The cardiac 
silhouette is top normal to mildly enlarged. 

CXR (___): Aeration of the lower lobes has improved. Right upper 
lobe and left mid lung opacities are unchanged; this is more 
likely due to infectious process. There is no overt CHF. There 
is no pneumothorax or enlarging pleural effusions.  Mild 
cardiomegaly is stable. 
 
Brief Hospital Course:
Her presenting dyspnea and hypoxia was most likely due to severe 
healthcare-associated pneumonia. She was treated with 
vancomycin/cefepime and later added metronidazole. There was an 
apparent component of pulmonary edema, which resolved with 
furosemide diuresis, although she subsequently developed acute 
renal failure. Prednisone was initially started for possible 
COPD exacerbation. As this seemed clinically unlikely, steroids 
were stopped, although nebulizer treatments were continued for 
wheezing. ACS was ruled out with EKG/trop. She remained hypoxic 
and oxygen dependent, in apparent respiratory distress with 
tachypnea. Due to lack of improvement with above treatments, and 
worsening somnolence, the decision was made with her family 
(son/HCP and daughter-in-law) to focus on comfort measures only. 
All medications not related to comfort, including antibiotics, 
were stopped and morphine concentrated solution was used for 
pain. She is being transferred back to ___, where her 
family feels she will be more comfortable.
 
Medications on Admission:
Acetaminophen 650 mg PO/NG Q6H:PRN pain  ___  
Docusate Sodium 100 mg PO BID 
Patient may refuse. Hold if patient has loose stools.  ___ 
___  
Senna 2 TAB PO/NG HS 
Patient may refuse. Hold if patient has loose stools.  ___ 
___  
Torsemide 100 mg PO DAILY  ___  
Pilocarpine 1% 1 DROP LEFT EYE BID  ___  
Risperidone 0.25 mg PO HS  ___  
Alendronate Sodium 70 mg PO QTUES  ___  
Verapamil 120 mg PO Q8H 
hold if sbp less than 90 or hr less than 60  ___  
Lorazepam 0.5 mg PO/NG HS  ___ @ ___  
Bisacodyl 5 mg PO BID  ___ @ ___  
Calcium Carbonate 650 mg PO/NG BID  ___  
Vitamin D 1000 UNIT PO/NG DAILY  ___  
Venlafaxine XR 37.5 mg PO DAILY  ___  
Potassium Chloride (Powder) 20 mEq PO/NG DAILY 
Hold for K >  ___  
Fluticasone Propionate 110mcg 2 PUFF IH BID  ___  
Neomycin-Polymyxin-Dexameth Ophth. Oint 1 Appl RIGHT EYE BID  
___  
Sertraline 25 mg PO/NG DAILY  ___ @ ___  
Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing or shortness 
of breath  ___  
 
Discharge Medications:
1. Lorazepam 2 mg/mL Solution Sig: 0.5-2 mg IV Injection every 
six (6) hours as needed for anxiety.  
2. Olanzapine 5 mg Tablet, Rapid Dissolve Sig: ___ Tablet, 
Rapid Dissolves PO twice a day as needed for agitation.  
3. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q4H (every 4 hours) as 
needed for wheezing or shortness of breath.  
4. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
every four (4) hours as needed for shortness of breath or 
wheezing.  
5. Morphine Concentrate 20 mg/mL Solution Sig: 2.5-5 mg PO 
Q30MIN (Every 30 minutes as needed) as needed for pain.  
6. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
every six (6) hours.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: Healthcare-associated pneumonia

Secondary:
Type 2 diabetes mellitus
Hypertension

 
Discharge Condition:
Level of Consciousness: Lethargic but arousable.
Mental Status: Confused - sometimes.
Activity Status: Bedbound.

 
Discharge Instructions:
You were admitted to ___ for trouble breathing. You were 
initially treated with antibiotics for pneumonia, and diuretic 
medications for increased fluid in your lungs. After discussion 
with your family, it was decided to transition your care to only 
comfort measures. We then discontinued many of your medications, 
including the antibiotics. We also started you on morphine for 
pain relief. It was decided that your care would then be 
transferred back to ___ for continuation of these 
comfort measures.
 
Followup Instructions:
___